US07300936B2
Polymer-bound D-Leu-NH2: FMOC-protected Rink amide resin (30 g, 0.61 mmol/g, 18 mmol) was treated with piperidine/DMF solution (250 mL). The mixture was shaken at rt for 24 h, drained, washed with DMF (5×200 mL), CH2Cl2 (5×200 mL) and dried under vacuum. The resin was then treated with FMOC-D-Leu-OH (22 g, 62 mmol), 1-hydroxybenzotriazole hydrate (2.5 g, 18 mmol), 1,3-diisopropylcarbodiimide (9.8 mL, 62 mmol), and DMF (250 mL). The mixture was shaken for 20 h, drained, washed with DMF (4×200 mL), DMF-water (1:1, 3×200 mL), DMF (3×200 mL), MeOH (3×200 mL), CH2Cl2 (3×200 mL) and dried. The completion of reaction and the loading of the resin-bound FMOC-D-Leu-NH2 (0.56 mmol/g) were determined by the treatment of 52 mg of the resin with 10% (v/v) TFA/CH2Cl2 (2 mL) to give 11 mg of FMOC-D-Leu-NH2. The resin-bound FMOC-D-Leu-NH2 was deprotected with 20% (v/v) piperidine/DMF solution (250 mL) to give polymer-bound D-Leu-NH2 (20 g).

reactant | FMOC-D-Leu-NH2 | N([C@H](CC(C)C)C(=O)N)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H24N2O3
solvent | piperidine DMF | 250 mL | N1CCCCC1.CN(C)C=O
product | D-Leu-NH2 | 20 g | N[C@H](CC(C)C)C(=O)N | C6H14N2O
